US06037495
Synthesis of 2-(2-acetoxymethylphenyl)-2-oxoacetamide
A mixture of 2-(2-chloromethylphenyl)-2-oxoacetamide (3.41 g), potassium acetate (2.03 g), potassium iodide (0.14 g) and N,N-dimethylformamide (35 ml) was stirred at room temperature for 24 hours. To the reaction mixture was added a mixed solution (about 300 ml) of ethyl acetate and ether in a mixing ratio of about 1:1. The mixture was washed with water twice and saturated brine once. The resulting organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain the crude product (3.55 g). The crude product was recrystallized from ethyl acetate-hexane, the resulting mother liquor was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to give the title compound (2.62 g in total, yield: 68.6%, white crystals).

reactant | 2-(2-chloromethylphenyl)-2-oxoacetamide | 3.41 g | ClCC1=C(C=CC=C1)C(C(=O)N)=O | C9H8ClNO2
reactant | potassium acetate | 2.03 g | C(C)(=O)[O-].[K+]
reactant | N,N-dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
reactant | ethyl acetate | about 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | potassium iodide | 0.14 g | [I-].[K+]
solvent | ether | CCOCC | C4H10O
product | 2-(2-acetoxymethylphenyl)-2-oxoacetamide | 2.62 g, yield: 68.6% | C(C)(=O)OCC1=C(C=CC=C1)C(C(=O)N)=O | C11H11NO4
